US05229400
a) 1-Bromo-3-(4-nitrophenyl)propane
1-Bromo-3-phenylpropane (19.7 mmol) was added slowly to a solution of sulfuric acid (7.4 g) and nitric acid (5.4 g) at ambient temperature and stirred at 60° C. The residue (mixture of ortho and para) was purified by column chromatography on silica gel. Yield 63.7%

reactant | 1-Bromo-3-phenylpropane | 19.7 mmol | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | sulfuric acid | 7.4 g | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 5.4 g | [N+](=O)(O)[O-] | HNO3
product | 1-Bromo-3-(4-nitrophenyl)propane | Yield 63.7% | BrCCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H10BrNO2
